US07772253B2
3,5-Bis-(2-fluoro-ethoxy)-benzoic acid
The above prepared 3,5-bis-(2-fluoro-ethoxy)-benzoic acid methyl ester (1.45 g, 5.57 mmol) was dissolved in 19 ml of THF/ethanol=1/1 and treated with 9.3 ml of aq. NaOH (3M, 5 eq.). The mixture was stirred for 1.5 h at ambient temperature and was then poured onto crashed ice/AcOEt/HCl dil.; the organic layer was washed with water, dried over sodium sulfate, and evaporated to dryness to leave 1.36 g of the title compound as white solid.

reactant | 3,5-bis-(2-fluoro-ethoxy)-benzoic acid methyl ester | 5.57 mmol, 1.45 g | COC(C1=CC(=CC(=C1)OCCF)OCCF)=O | C12H14F2O4
reactant | NaOH | 3M, 9.3 ml, 5 eq. | [OH-].[Na+]
solvent | THF ethanol | 19 ml | C1CCOC1.C(C)O
product | 3,5-Bis-(2-fluoro-ethoxy)-benzoic acid | 1.36 g | FCCOC=1C=C(C(=O)O)C=C(C1)OCCF | C11H12F2O4
